US07309703B2
E. 5-Methanesulfonyl-1-{3-[4-(2-nitro-phenyl)-piperazin-1-yl]-propyl}-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine
To a stirred solution of 3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propionaldehyde (0.060 g, 0.15 mmol) and 1-(2-nitro-phenyl)-piperazine (0.032 g, 0.157 mmol) in CH2Cl2 (0.5 mL), glacial AcOH (8.5 μL, 0.15 mmol) was added and stirred for 15 min at room temperature. NaBH(OAc)3 (0.041 g, 0.19 mmol) was added and stirred under nitrogen overnight. Saturated NaHCO3 (0.5 mL) was then added and stirred for 15 min. The layers separated and the aqueous layer was extracted with CH2Cl2 (0.5 mL). MPLC purification (silica, 2-15% MeOH/CH2Cl2) afforded the desired product as a white solid (0.063 g, 71%). TLC (silica, 12% MeOH/CH2Cl2): Rf=0.67. MS (electrospray): exact mass calculated for C27H31F3N6O4S, 592.21; m/z found, 593.2 [M+H]+. 1H NMR (400 MHz, CDCl3): 7.80 (dd, J=1.6, 8.2 Hz, 1H), 7.77 (d, J=8.3 Hz, 2H), 7.70 (d, J=8.3 Hz, 2H), 7.52 (ddd, J=1.6, 7.3, 8.3 Hz, 1H), 7.19 (dd, J=1.2, 8.3 Hz, 1H), 7.09 (m, 1H), 4.59 (s, 2H), 4.17 (t, J=6.9 Hz, 2H), 3.71 (t, J=5.8 Hz, 2H), 3.13 (br t, J=4.8 Hz, 4H), 2.96 (t, J=5.6 Hz, 2H), 2.95 (s, 3H), 2.66 (br t, J=4.4 Hz, 4H), 2.51 (t, J=7.0 Hz, 2H), 2.17 (q, J=6.9 Hz, 2H).

reactant | 3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propionaldehyde | 0.15 mmol, 0.060 g | CS(=O)(=O)N1CC2=C(CC1)N(N=C2C2=CC=C(C=C2)C(F)(F)F)CCC=O | C17H18F3N3O3S
reactant | 1-(2-nitro-phenyl)-piperazine | 0.157 mmol, 0.032 g | [N+](=O)([O-])C1=C(C=CC=C1)N1CCNCC1 | C10H13N3O2
reactant | AcOH | 0.15 mmol, 8.5 μL | CC(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 0.19 mmol, 0.041 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 0.5 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 5-Methanesulfonyl-1-{3-[4-(2-nitro-phenyl)-piperazin-1-yl]-propyl}-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine | 0.063 g, 71% | CS(=O)(=O)N1CC2=C(CC1)N(N=C2C2=CC=C(C=C2)C(F)(F)F)CCCN2CCN(CC2)C2=C(C=CC=C2)[N+](=O)[O-] | C27H31F3N6O4S
